### PR TITLE
Prove unitsrat_join_unitszHat

### PR DESCRIPTION
**Pull request by DjangoPeeters**
This pr fills in the proof of unitsrat_join_unitszHat and adds the corresponding `leanok` and dependency tags to the blueprint.

### CODE REVIEW

**Comment by DjangoPeeters** [comment]
awaiting-review

File: FLT/AutomorphicRepresentation/Example.lean [hunk 1]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      simp only [Algebra.TensorProduct.includeRight_apply, AddMonoidHom.mem_range,
+        AddMonoidHom.coe_coe, exists_apply_eq_apply, forall_const, Subgroup.mem_sup, xunit] at h
+      rcases h with ⟨w, ⟨v, hv⟩, z, ⟨t, ht⟩, wzx⟩
+      rw [Subgroup.mem_sup]
+      let q : ℚˣ := ⟨v / N, N / v, by field_simp, by field_simp⟩
+      use ((Units.map ↑i₁) q)
+      simp only [MonoidHom.mem_range, exists_exists_eq_and]
+      constructor
+      use q
+      use t
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      refine ⟨⟨q, rfl⟩, t, ?_⟩
```
This way you don't ever have two goals

File: FLT/AutomorphicRepresentation/Example.lean [hunk 2]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      simp only [← Units.eq_iff, hy, ht, Units.map_mk, MonoidHom.coe_coe,
+        Algebra.TensorProduct.includeLeft_apply, Units.val_mul, one_div, q, xunit]
+      rw [← mul_one (N⁻¹ : ℚ), ← one_mul x, ← Algebra.TensorProduct.tmul_mul_tmul, div_eq_mul_inv,
+        mul_comm (v : ℚ), ← mul_one 1, ← Algebra.TensorProduct.tmul_mul_tmul, mul_assoc, mul_one]
+      congr
+      simp only [← hv, ← Units.eq_iff, Units.val_mul, Units.coe_map, MonoidHom.coe_coe,
+        Algebra.TensorProduct.includeLeft_apply, xunit, q] at wzx
+      exact wzx
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      simpa only [← hv, ← Units.eq_iff, Units.val_mul, Units.coe_map, MonoidHom.coe_coe,
        Algebra.TensorProduct.includeLeft_apply, xunit, q] using wzx
```
Another shortcut.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 3]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      rw [Ideal.mem_span_singleton']
+      use y
+      apply injective_zHat
+      simp only [mul_comm, ← hX, AddMonoidHom.coe_coe, Algebra.TensorProduct.includeRight_apply,
+        Algebra.TensorProduct.tmul_mul_tmul, mul_one, I, J] at this
+      rw [Algebra.TensorProduct.includeRight_apply, this, map_natCast]
+    let IdealJ : Ideal ℤ := by -- make this construction into a function (for Mathlib)?
+      refine ⟨⟨⟨J, ?_⟩, ?_⟩, ?_⟩
+      simp only [Int.coe_castRingHom, Set.mem_preimage, SetLike.mem_coe, Int.cast_add, J]
+      exact (fun {a b} ↦ Ideal.add_mem I)
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      · simp only [Int.coe_castRingHom, Set.mem_preimage, SetLike.mem_coe, Int.cast_add, J]
        exact (fun {a b} ↦ Ideal.add_mem I)
```
I'm surprised that a linter isn't triggered here. There are three goals so you should be indenting and using `\.`. It's quite confusing to see `exact` in the middle of a proof.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 4]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      simp only [Int.coe_castRingHom, Set.mem_preimage, Int.cast_zero, SetLike.mem_coe,
+        Submodule.zero_mem, J, I]
+      simp only [smul_eq_mul, I, J, Set.mem_preimage, Int.coe_castRingHom, Int.cast_mul]
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]: Similarly there should be dots on lines 550 and 552

File: FLT/AutomorphicRepresentation/Example.lean [hunk 5]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      rw [Int.neg_pos, Int.lt_iff_le_and_ne, ← Int.not_gt_eq]
+      refine ⟨gpos, ?_⟩
+      rintro rfl
+      rw [Submodule.span_zero_singleton, Submodule.eq_bot_iff] at hg
+      specialize hg (M : ℤ) Jnonzero
+      simp only [Int.natCast_eq_zero, PNat.ne_zero] at hg
+    clear this hxinv y Jnonzero M
+    let N : ℕ+ := ⟨g.toNat, Int.pos_iff_toNat_pos.1 gpos⟩
+    suffices h : Ideal.span {X} = Ideal.span {(g : ZHat)} by
+      obtain ⟨y,hy⟩ : ∃ y,y*X=g := by rw [← Ideal.mem_span_singleton',h,Ideal.mem_span_singleton]
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      obtain ⟨y, hy⟩ : ∃ y, y * X = g := by 
        rw [← Ideal.mem_span_singleton',h,Ideal.mem_span_singleton]
```
Again I'm surprised there is no linter going nuts about this. Same comment for the next line too.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 6]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+        rw [mul_comm, ← sub_right_inj (a := (1 : ZHat)), sub_self]
+        apply ZHat.eq_zero_of_mul_eq_zero N
+        rw [PNat.mk_coe, ← Int.cast_natCast, Int.natCast_toNat_eq_self.2 (le_of_lt gpos), mul_sub,
+          mul_one, sub_eq_zero, ← mul_assoc, mul_comm _ z, hz, mul_comm, hy]
+      simp only [Subgroup.mem_sup, MonoidHom.mem_range, exists_exists_eq_and]
+      set G : ℚ := 1 / g with G_def
+      have gG : g * G = 1 := by
+        rw [G_def, one_div, mul_inv_cancel₀]
+        simp only [ne_eq, Rat.intCast_eq_zero, Int.ne_of_gt gpos, not_false_eq_true]
+      use ⟨g, G, gG, by rw [mul_comm]; exact gG⟩
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      use ⟨g, G, gG, mul_comm _ G ▸ gG⟩ 
```
This is a way of avoiding tactic mode completely. The trick can probably be used on the next line as well.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 7]
```diff
@@ -482,8 +482,142 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+      rw [← hz, ← mul_one 1, ← Algebra.TensorProduct.tmul_mul_tmul, mul_one, mul_comm,
+        Algebra.TensorProduct.one_tmul_intCast]
+    have hgx : Ideal.span {(g : ZHat)} ≤ Ideal.span {X} := by
+      have : g ∈ IdealJ := by
+        rw [hg, Ideal.submodule_span_eq]
+        apply Ideal.mem_span_singleton_self
+      simp only [Submodule.mem_mk, AddSubmonoid.mem_mk, AddSubsemigroup.mem_mk,
+        Int.coe_castRingHom, Set.mem_preimage, SetLike.mem_coe, J, IdealJ, I] at this
+      exact (Ideal.span_singleton_le_iff_mem _).2 this
+    apply le_antisymm
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
    refine le_antisymm ?_ hgx
```
means that you don't have to indent on line 594 because you only have one goal.

**Comment by kbuzzard** [comment]
awaiting-author

**Comment by DjangoPeeters** [comment]
Thank you for reviewing! I will resolve the conversations tomorrow.

File: FLT/AutomorphicRepresentation/Example.lean (hunk 5 above)
Comment (kbuzzard) [reply FLT/AutomorphicRepresentation/Example.lean]: Oh, this linter has only just been added to mathlib. If you merge main then a linter will be pointing out these things automatically.

**Comment by kbuzzard** [comment]
@DjangoPeeters this can't be reviewed right now because CI is failing (your code doesn't seem to compile). 

awaiting-author

File: FLT/AutomorphicRepresentation/Example.lean [hunk 8]
```diff
@@ -482,8 +482,139 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+    [CommRing R] [Ring A] [Algebra R A] [Ring B] [Algebra R B] {z : ℤ} :
+    (z : A) ⊗ₜ[R] (1 : B) = (z : TensorProduct R A B) := by
+  rw [← map_intCast (F := A →ₐ[R] TensorProduct R A B),
+    Algebra.TensorProduct.includeLeft_apply]
+
 -- this needs that ℤ is a PID.
-lemma unitsrat_join_unitszHat : unitsratsub ⊔ unitszHatsub = ⊤ := sorry
+lemma unitsrat_join_unitszHat : unitsratsub ⊔ unitszHatsub = ⊤ := by
+  apply le_antisymm
+  · apply le_top
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
  rw [eq_top_iff]
```
and now you can remove the bullet and unindent everything two

File: FLT/AutomorphicRepresentation/Example.lean [hunk 9]
```diff
@@ -482,8 +482,139 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+  · intro y _
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
  rintro y -
```
is even better because the minus sign means "don't even bother to make this a hypothesis" as opposed to "make it a hypothesis but give it a weird name"

File: FLT/AutomorphicRepresentation/Example.lean [hunk 10]
```diff
@@ -482,8 +482,139 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+    have : (i₂ x) * xinv = 1 := by
+      rw [xinv_def, Algebra.TensorProduct.includeRight_apply, one_div, mul_inv_rev,
+        Algebra.TensorProduct.tmul_mul_tmul,one_mul,mul_comm,← Algebra.TensorProduct.tmul_mul_tmul,
+        ← one_div, ← one_div, ← hy, ← hy2, ← Units.val_mul, mul_inv_cancel, Units.val_one]
+    let xunit : QHatˣ := ⟨i₂ x, xinv, this, by rw [mul_comm]; exact this⟩
+    suffices h : ∀ (u : QHatˣ), (u : QHat) ∈ zHatsub → u ∈ unitsratsub ⊔ unitszHatsub by
+      specialize h xunit
+      simp only [Algebra.TensorProduct.includeRight_apply, AddMonoidHom.mem_range,
+        AddMonoidHom.coe_coe, exists_apply_eq_apply, forall_const, Subgroup.mem_sup, xunit] at h
+      rcases h with ⟨w, ⟨v, hv⟩, z, ⟨t, ht⟩, wzx⟩
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]:
```suggestion
      rcases h with ⟨w, ⟨v, rfl⟩, z, ⟨t, rfl⟩, wzx⟩
```
and then you don't have to `rw ht` and `rw \l hv` later.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 11]
```diff
@@ -482,8 +482,139 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+    have : x * (i₂ y) = M := by
+      rw [← one_mul (M : QHat), ← Units.val_one, ← mul_inv_cancel x, Units.val_mul, mul_assoc]
+      congr!
+      have h : (M : QHat) = (M : ℚ) ⊗ₜ[ℤ] 1 := by norm_cast
+      rw [Algebra.TensorProduct.includeRight_apply, hxinv, h, Algebra.TensorProduct.tmul_mul_tmul,
+        mul_one, one_div, inv_mul_cancel₀]
+      simp only [ne_eq, Rat.natCast_eq_zero, PNat.ne_zero, not_false_eq_true]
+    rcases hx with ⟨X, hX⟩
+    let I := Ideal.span {X}
+    let J := (Int.castRingHom ZHat) ⁻¹' I -- this needs to be an ideal
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]: You're looking for
```
let J := I.comap (Int.castRingHom ZHat)
```
and you'll be able to remove many lines below.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 12]
```diff
@@ -482,8 +482,139 @@ lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
...
+    have Jnonzero : (M : ℤ) ∈ J := by
+      simp only [Int.coe_castRingHom, Set.mem_preimage, Int.cast_natCast, SetLike.mem_coe, J, I]
+      rw [Ideal.mem_span_singleton']
+      use y
+      apply injective_zHat
+      simp only [mul_comm, ← hX, AddMonoidHom.coe_coe, Algebra.TensorProduct.includeRight_apply,
+        Algebra.TensorProduct.tmul_mul_tmul, mul_one, I, J] at this
+      rw [Algebra.TensorProduct.includeRight_apply, this, map_natCast]
+    let IdealJ : Ideal ℤ := by -- make this construction into a function (for Mathlib)?
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean]: All basic stuff like this should already be there. Your question shouldn't be "should I put preimages of ideals in mathlib" but rather "how do I find preimages of ideals in mathlib". It's helpful to know buzzwords, like `comap` (which we use for preimage, pullback etc).

**Review by kbuzzard — COMMENTED** [review]
Sorry, I'm still tidying up :-)

**Comment by kbuzzard** [comment]
awaiting-author

**Comment by DjangoPeeters** [comment]
Thank you so much for tidying up! I just encountered `comap` last week in Chapter 8, Mathematics In Lean, so at the time of formalizing the proof I figured it'd be faster working from first principles as I didn't find the right buzzword. The trick using `-` is very useful.

**Comment by DjangoPeeters** [comment]
awaiting-review
